US07268133B2
To the solution of 5-[3-(4-chlorophenyl)-2-(2-chlorophenyl)-2H-pyrazolo[4,3-d]pyrimidin-7-yl]-2,5-diazabicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester 2A-46 (595 mg, 1.11 mmol) in dioxane (8 ml) was added HCl (2.22 ml, 4 N in dioxane, 8.88 mmol). The reaction mixture was stirred for 3 hours under nitrogen at room temperature. Then, the reaction mixture was concentrated and co-evaporated with diethyl ether (25 ml). The residue was further dried in a drying pistol under vacuum at 65° C. to give Rac-(S,S)-3-(4-chlorophenyl)-2-(2-chlorophenyl)-7-(2,5-diazabicyclo[2.2.1]hept-2-yl)-2H-pyrazolo[4,3-d]pyrimidine HCl salt 4A-1 (522 mg, 92%): MS: 437.1 (M+1)+; 1H NMR (400 MHz, CD3OD) δ 8.6 (d, J=6.2 Hz, 1H), 7.7 (dd, J=15.8, 7.1 Hz, 1H), 7.6 (m, 2H), 7.5 (m, 1H), 7.4 (dd, J=8.3, 3.3 Hz, 2H), 7.3 (t, J=7.5 Hz, 2H), 6.3 (s, 0.5H), 5.8 (s, 0.5H), 4.7 (m, 1H), 4.6 (d, J=13.7 Hz, 0.5H), 4.5 (dd, J=13.7, 2.5 Hz, 0.5H), 4.2 (ddd, J=29.5, 14.1, 1.7 Hz, 1H), 3.6 (m, 2H), 2.5 (dd, J=24.0, 12.0 Hz, 1H), 2.3 (t, J=11.2 Hz, 1H).

reactant | 5-[3-(4-chlorophenyl)-2-(2-chlorophenyl)-2H-pyrazolo[4,3-d]pyrimidin-7-yl]-2,5-diazabicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CN(C(C1)C2)C=2C=1C(N=CN2)=C(N(N1)C1=C(C=CC=C1)Cl)C1=CC=C(C=C1)Cl | C27H26Cl2N6O2
reactant | HCl | 8.88 mmol, 4 N, 2.22 ml | Cl | ClH
solvent | dioxane | 8 ml | O1CCOCC1 | C4H8O2
product | Rac-(S,S)-3-(4-chlorophenyl)-2-(2-chlorophenyl)-7-(2,5-diazabicyclo[2.2.1]hept-2-yl)-2H-pyrazolo[4,3-d]pyrimidine HCl salt | 522 mg, 92% | Cl.ClC1=CC=C(C=C1)C=1N(N=C2C1N=CN=C2N2C1CNC(C2)C1)C1=C(C=CC=C1)Cl | InChI=1S/C22H18Cl2N6.ClH/c23-14-7-5-13(6-8-14)21-19-20(28-30(21)18-4-2-1-3-17(18)24)22(27-12-26-19)29-11-15-9-16(29)10-25-15;/h1-8,12,15-16,25H,9-11H2;1H
